US07875728B2
4-(3-phenylphenylhydrazono)-4H-pyrazole-3,5-diamine was prepared using 123 mg (0.5 mmol) of 2-[(biphenyl-2-yl)hydrazono]malononitrile, which was derived from 2-aminobiphenyl (169 mg, 1.0 mmol) and malononitrile (1.5 mmol), and hydrazine hydrate. Precipitate formed in the reaction tube immediately after the addition of the hydrazine hydrate then the solution cleared. Very little solid remained after heating the reaction at 75° C. for 1 hr, however, analysis of the reaction solution by TLC indicated that no starting material remained. The solution was allowed to cool to ambient temperature and the solvent was evaporated. The residue was dissolved in ethyl acetate and then precipitated by the addition of hexanes. The resulting solid was isolated by filtration and dried to yield 85 mg (61%) of the compound as an orange solid.

reactant | 2-[(biphenyl-2-yl)hydrazono]malononitrile | 0.5 mmol, 123 mg | C1(=C(C=CC=C1)NN=C(C#N)C#N)C1=CC=CC=C1 | C15H10N4
reactant | 2-aminobiphenyl | 1.0 mmol, 169 mg | NC1=C(C=CC=C1)C1=CC=CC=C1 | C12H11N
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-(3-phenylphenylhydrazono)-4H-pyrazole-3,5-diamine | C1(=CC=CC=C1)C=1C=C(C=CC1)NN=C1C(=NN=C1N)N | C15H14N6
